US06667316B1
A mixture of N-{2-[1-(3-ethoxy-4-methoxyphenyl)-3-hydroxypentyl]-1,3-dioxoisoindolin-4-yl}acetamide (1.35 g, 3.06 mmol), pyridinium chlorochromate (1.32 g, 6.12 mmol) and celite (0.6 g) in methylene chloride (35 mL) was stirred for 5 hours. The mixture was filtered through celite and the filtrate was washed with water (30 mL), brine (30 mL) and dried over magnesium sulfate. Solvent was removed in vacuo and the residue was purified by chromatography (Silica gel, methylene chloride:ethyl acetate 9:1) to give N-{2-[1-(3-ethoxy-4-methoxyphenyl)-3-oxopentyl]-1,3-dioxoisoindolin-4-yl}acetamide (1.08 g, 81%) as a white solid: mp 137-139° C.; 1H NMR (CDCl3) δ9.53 (s, 1H), 8.71 (d, J=8.4 Hz, 1H), 7.62 (t, J=7.6 Hz, 1H), 7.45 (d, J=7.3 Hz, 1H), 7.07-7.04 (m, 2H), 6.83 (d, J=8.8 Hz, 1H), 5.76-5.70 (dd, J=5.2, 10.1 Hz, 1H), 4.12 (q, J=6.9 Hz, 2H), 4.02-3.90 (dd, J=10.1, 17.9 Hz, 1H), 3.83 (s, 3H), 3.26-3.17 (dd, J=5.2, 17.9 Hz, 1H), 2.49 (q, J=7.3 Hz, 2H), 2.26 (s, 3H), 1.46 (t, J=6.9 Hz, 3H), 1.02 (t, J=7.3 Hz, 3H); 13C NMR (CDCl3) δ208.03, 170.02, 169.15, 167.86, 149.12, 148.33, 137.34, 135.76, 131.39, 131.22, 124.64, 120.00, 117.87, 115.29, 112.50, 111.27, 64.38, 55.89, 49.94, 43.51, 36.10, 24.92, 14.71, 7.52; Anal. Calcd. for C24H26N2O6: C, 65.74; H, 5.98; N, 6.39. Found: C, 65.74; H, 6.34; N, 6.38.

reactant | N-{2-[1-(3-ethoxy-4-methoxyphenyl)-3-hydroxypentyl]-1,3-dioxoisoindolin-4-yl}acetamide | 3.06 mmol, 1.35 g | C(C)OC=1C=C(C=CC1OC)C(CC(CC)O)N1C(C2=CC=CC(=C2C1=O)NC(C)=O)=O | C24H28N2O6
reactant | pyridinium chlorochromate | 6.12 mmol, 1.32 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 35 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[1-(3-ethoxy-4-methoxyphenyl)-3-oxopentyl]-1,3-dioxoisoindolin-4-yl}acetamide | 1.08 g, 81% | C(C)OC=1C=C(C=CC1OC)C(CC(CC)=O)N1C(C2=CC=CC(=C2C1=O)NC(C)=O)=O | C24H26N2O6
